US04908465
A solution of 10.6 g of ethyl (diethoxymethyl)phosphonite in 9 g of hexamethyldisilazane is heated to reflux under an atmosphere of nitrogen for a period of 3 hours. The reaction mixture is allowed to cool to 20° C. and then distilled under reduced pressure to give ethyl trimethylsilyl (diethoxymethyl)phosphonite, b.p. 51° C. at 0.01 mbar, 31P=+146.9 ppm (CDCl3).

reactant | ethyl (diethoxymethyl)phosphonite | 10.6 g | C(C)OC(OCC)P(OCC)[O-]
reactant | hexamethyldisilazane | 9 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | ethyl trimethylsilyl (diethoxymethyl)phosphonite | C(C)OC(OCC)P(OCC)O[Si](C)(C)C | C10H25O4PSi
